* Thermal CMOS Inverter DC Analysis

**** This netlist is for DC Analysis of Thermal Cmos Inverter. The Inverter is based on EKV mosfet model
.options initTmp=300
.ref "tref"
.ref 0
.dc sweep="vsource:Vin" start=0 stop=5 step=0.01

*** Vdd connection 
vsource:Vdd 1 0 vdc=5

**** Input DC source
vsource:Vin 2 0

***** Instantiation of Thermal Cmos Inverter
cmosinvt:invt 1 2 3 0 2000 "tref" tmp=initTmp wn=20e-6 wp=40e-6

**** Load Resistance
r:Rout 3 0 r=1000000
**** Load Capacitance
c:Cout 3 0 c=1e-12

****Thermal 
r:Rthermal 2000 2001 r=20e3
c:Cthermal 2000 2001 c=1e-12
vsource:vt1 2001 "tref" vdc=initTmp

***Plot
.options gnuplot
.out plot term 3 vt in "Vout_300K_20k.out"
.out plot term 2000 vt in "JunctionTemp_300K_20k.out"
.out plot element "vsource:vt1" 0 it in "Iheat_300K_20k.out"
**.out plot term 2 vt in "vin.out"
.end
