* Thermal CMOS Inverter DC Analysis

**** This netlist is for DC Analysis of Thermal Cmos Inverter. The Inverter is based on EKV mosfet model
.options initTmp=300
.ref "tref"
.ref 0

.tran2 tstop=4e-6 tstep=1e-10
vpulse:Vin2 22 0 v1=0 v2=5 per=2e-6 pw=1e-6 tr=0.002e-6 tf=0.002e-6

*** Vdd connection 
vsource:Vdd 1 0 vdc=5

***** Instantiation of Thermal Cmos Inverter
cmosinvt:invt 1 2 3 0 2000 "tref" tmp=initTmp wn=20e-6 wp=50e-6

* Source Resistance
r:Rsource 22 2 r=10
* Source Capacitance
c:Csource 2 0 c=1e-12

**** Load Resistance
r:Rout 3 0 r=1000000
**** Load Capacitance
c:Cout 3 0 c=1e-12

****Thermal 
r:Rthermal 2000 2001 r=20e3
c:Cthermal 2000 2001 c=1e-12
vsource:vt1 2001 "tref" vdc=initTmp

***Plot
.options gnuplot
.out plot term 3 vt in "Vout_300K_20k.out"
.out plot term 2000 vt in "JunctionTemp_300K_20k.out"
.out plot element "vsource:vt1" 0 it in "Iheat_300K_20k.out"
**.out plot element "cmosinvt:invt" 0 it in "inv_current.out"
**.out plot term 2 vt in "vin.out"
.end
