**** Test netlist for  Foster N Port Model *****
*
* Test two-port coupled lines considered.
*
.tran2 tstop=10000ns tstep=0.01ns out_steps=100

*.ac start=100 stop=4e9 n_freqs=400

vsource:vin 3 0 vac=1 f=1gHz phase=90

r:source 3 1 r=50

*vpulse:vin 11 0 v1=0 v2=1 td=.1n tr=.5n tf=.5n pw=4n per=4n

FosterNPort:f1 1 2 0 filename = "two_port.yp" ports = 2

r:load 2 0 r=50.

.options gnuplot

.options preamble="set term x11 font 'helvetica,13'; set title 'Voltage at Input to Foster N Port'; set xlabel 'TIME (microseconds)'; set ylabel 'VOLTAGE' "
.out plot term 1 vt 1e6 scalex preamble in "v1.out"

.options preamble="set term x11 font 'helvetica,13';
         set title 'Voltage at Output of Foster N Port';
         set xlabel 'TIME (microseconds)'; set ylabel 'VOLTAGE' "
.out plot term 2 vt  1e6 scalex preamble in "v2.out"

.end
