**** Test netlist for  Foster N Port Model *****
*
* One-port coupled antena test
*

.tran2 tstop=0.1 tstep=0.00001 opt

vsource:vin 1 0 vac = 1v  f = 0.1 phase=90


r:rin 1 port1 r=1

FosterNPort:f1 port1 0 filename = "one_pole.txt" ports = 1

l:1 port1 0 l=1
r:1 port1 0 r=1

*open:o1 1 0 

.options gnuplot

.out write term "port1" vt in "v2_tran.out"

*.options preamble="set term x11 font 'helvetica,13';
*         set title 'Voltage at Input of Foster 1 Port';
*         set xlabel 'TIME (s)'; set ylabel 'VOLTAGE' "
*.out plot term "port1" vt preamble in "v2_tran.out"


.end
