**** Test netlist for  Foster N Port Model *****
*
* This uses lumped elements rather than a FosterNPortModel
*
* Compare to foster_one_complex_pole
*

.tran2 tstop=10 tstep=0.001

*vsource:vin 1 0 vac = 1v  f = 0.1 phase=90

vpulse:vin 1 0 v1=0 tr=0.001 v2=1 pw=10000

r:source 1 port1 r=1
r:l port1 port1a r=1
l:l port1a port1b l=1 int_res=0
r:2 port1b 0 r=1
c:1 port1b 0 c=1


.options gnuplot

.out write term "port1" vt in "v1_tran.out"

.options preamble="set term x11 font 'helvetica,13';
         set title 'Voltage at Input of Foster 1 Port';
         set xlabel 'TIME (s)'; set ylabel 'VOLTAGE' "
.out plot term "port1" vt preamble in "v2_tran.out"


.end
