*++++++++++ Transformer Center-tap test +++++++++++++++++++++++++++++
*++++++++++ cttransformer.net
*+++++ transformerct:t1 in ref out1 ref out2
*+++++ print detailed info to .OUT file
.options verbose
.options gmin=0 ftol=1.e-10

*.ac start=1 stop = 10 n_freqs=10
.tran2 tstop = 50e-3 tstep = 10e-6 gcomp=0 im=2

*++++++++++++++++++ Circuit +++++++++++++++++++++++++++++++++++++++++
*++++++++++ source for ac analysis
*vsource:v1 1 0 vac=10V 

*++++++++++ source for transient analysis
vsource:v1 1 0 vac=10V f=60

r:rin 1 2 r=50

*+++++for turn ratio 1-to-1 Vin=Vout: 10V=10V
*+++++for turn ratio 10-to-1 -> Vin(1/10)=Vout: 10V=0.1V make n1=10
*+++++for turn ratio 1-to-10 -> Vin(10/1)=Vout: 10V=100V make n2=10 n3=10
*&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&
*+++++for turn ratio 1-to-10 and 1-to-2 -> 
*+++++Vin(10/1)=1st Vout: n2=10 for Vout1=100V
*+++++Vin(2/1)=2nd Vout: n3=2 for Vout2=20V
*transformerct:t1  2 0 3 0 4 n2=10 n3=2

*&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&
*&&& Configuration of transformer with reference point other then ground
*&&& This configuration make secondary winding independance from first
*&&& ".REF node#" defines reference point other then GROUND
*&&& Vin=10V, n1=n2=n3=1 by default
*&&& having k12=0.5 -> Vout1=10*0.5=5V
*&&& having k12=0.1 -> Vout2=10*0.1=1V
transformerct:t1   2 0 3 5 4 k12=0.5 k13=0.1
.ref 5
r:ref1 3 5   r=1e6
r:ref2 4 5   r=1e6
*&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&&

*r:rload1 4 0  r=1e6
*r:rload2 3 0  r=1e6

*++++++++++++++++++++++++ Simulation +++++++++++++++++++++++++++++++++++
.options gnuplot

***************** Transient Simulation Results *************************
*++++++ set up plot preamble with font and label information
.options plotVT1Preample="set term x11 font 'helvetica,18';
         set title 'Voltage at Input Terminal';
         set xlabel 'Time (milliseconds)'; set ylabel 'Voltage (V_ac)'"
.out plot term 2 vt 1e3 scalex plotVT1Preample in "vprimary.out" 

.options plotVT1Preample="set term x11 font 'helvetica,18';
         set title 'Voltage at 1st Output Terminal';
         set xlabel 'Time (milliseconds)'; set ylabel 'Voltage (V_ac)'"
.out plot term 3 vt 1e3 scalex plotVT1Preample in "vsecondary1.out" 

.options plotVT1Preample="set term x11 font 'helvetica,18';
         set title 'Voltage at 2nd Output Terminal';
         set xlabel 'Time (milliseconds)'; set ylabel 'Voltage (V_ac)'"
.out plot term 4 vt 1e3 scalex plotVT1Preample in "vsecondary2.out" 


****************** Frequency Simulation Results (.AC analysis)************
*.options plotVT1Preample="set term x11 font 'helvetica,18';
*         set title 'Voltage at Input Terminal';
*         set xlabel 'Frequency (Hz)'; set ylabel 'Voltage (V_ac)'"
*.out plot term 2 vf mag plotVT1Preample in "vprimary.out" 

*.options plotVT1Preample="set term x11 font 'helvetica,18';
*         set title 'Voltage at Output Terminal';
*         set xlabel 'Frequency (Hz)'; set ylabel 'Voltage (V_ac)'"
*.out plot term 3 vf mag plotVT1Preample in "vsecondary1.out" 

*.options plotVT1Preample="set term x11 font 'helvetica,18';
*         set title 'Voltage at Output Terminal';
*         set xlabel 'Frequency (Hz)'; set ylabel 'Voltage (V_ac)'"
*.out plot term 4 vf mag plotVT1Preample in "vsecondary2.out" 

*.out plot term 1 vt in "source.out"
.end

